US05270331
PREPARATION 28--SODIUM N-PIVALOYLGLYCINATE
To a solution of ethyl N-pivaloylglycinate (11.3 g) in 50 mL of methanol was added 69.2 mL of 1N sodium hydroxide, and the solution stirred for 2 hr. Solvents were evaporated in vacuo. Fresh methanol was added and reevaporated to give 12.45 g of off-white solid.

reactant | ethyl N-pivaloylglycinate | 11.3 g | C(C(C)(C)C)(=O)NCC(=O)OCC | C9H17NO3
reactant | sodium hydroxide | 1N, 69.2 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | SODIUM N-PIVALOYLGLYCINATE | 12.45 g | C(C(C)(C)C)(=O)NCC(=O)[O-].[Na+] | InChI=1S/C7H13NO3.Na/c1-7(2,3)6(11)8-4-5(9)10;/h4H2,1-3H3,(H,8,11)(H,9,10);/q;+1/p-1
